US08349824B2
A mixture of {2-[(2-fluoro-ethyl)-methyl-amino]-[1,2,4]triazolo[1,5-a]pyridin-7-yl}-carbamic acid tert-butyl ester (1.7 g, 5.5 mmol) and hydrochloric acid in dioxane (4N, 39.2 ml, 156.7 mmol) was stirred at 25° C. for 16 h. Volatiles were removed in vacuo to afford N2-(2-Fluoro-ethyl)-N2-methyl-[1,2,4]triazolo[1,5-a]pyridine-2,7-diamine hydrochloride as a light yellow solid (1.3 g, 96.3%). MS: m/z=210.2 (M+H+).

reactant | {2-[(2-fluoro-ethyl)-methyl-amino]-[1,2,4]triazolo[1,5-a]pyridin-7-yl}-carbamic acid tert-butyl ester | 5.5 mmol, 1.7 g | C(C)(C)(C)OC(NC1=CC=2N(C=C1)N=C(N2)N(C)CCF)=O | C14H20FN5O2
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 156.7 mmol, 4N, 39.2 ml | O1CCOCC1 | C4H8O2
product | N2-(2-Fluoro-ethyl)-N2-methyl-[1,2,4]triazolo[1,5-a]pyridine-2,7-diamine hydrochloride | 1.3 g, 96.3% | Cl.FCCN(C1=NN2C(C=C(C=C2)N)=N1)C | InChI=1S/C9H12FN5.ClH/c1-14(5-3-10)9-12-8-6-7(11)2-4-15(8)13-9;/h2,4,6H,3,5,11H2,1H3;1H
